US05498609
To a solution of 7-chloro-5-methoxycarbonylmethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (8 g) in ethylene glycol dimethyl ether (50 ml)is added sodium trimethoxyborohydride (6 g), and the mixture is refluxed for 4 hours. To the mixture is added sodium trimethoxyborohydride (3 g), and the mixture is refluxed for two hours. The reaction solution is gradually poured into diluted aqueous hydrochloric acid solution, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and recrystallized from dichloromethane-diethyl ether to give 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-l H-benzazepine (3.1 g) as white powder.

reactant | 7-chloro-5-methoxycarbonylmethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 8 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CC(=O)OC)C1 | C26H23Cl2N3O4
reactant | sodium trimethoxyborohydride | 6 g | CO[BH-](OC)OC.[Na+]
reactant | sodium trimethoxyborohydride | 3 g | CO[BH-](OC)OC.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
product | 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-l H-benzazepine | 3.1 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCO)C1 | C25H23Cl2N3O3
